US06906055B2
4-(4-pyridyl)-1,3-thiazole-2-thiol
4-(4-Pyridyl)-1,3-thiazole-2-thiol.hydrobromide (89.3 g, 0.32 mol) was suspended in water (627 mL) under a nitrogen stream, and 25% aqueous sodium hydroxide solution (110.5 g, 0.69 mol) was added for dissolution. An insoluble material was filtered and washed with water (100 mL). 35% Hydrochloric acid (31 mL) was added to the filtrate to adjust to pH 6.8. The precipitated crystals were collected by filtration, and washed with water (20 mL) and methanol (20 mL). The obtained crystals were suspended in methanol (627 mL). After stirring for 2 hr, the crystals were filtrated and dried. yield: 47.6 g (75.6%)

reactant | 4-(4-Pyridyl)-1,3-thiazole-2-thiol.hydrobromide | 0.32 mol, 89.3 g | Br.N1=CC=C(C=C1)C=1N=C(SC1)S
reactant | sodium hydroxide | 0.69 mol, 110.5 g | [OH-].[Na+]
solvent | water | 627 mL | O | H2O
product | 4-(4-pyridyl)-1,3-thiazole-2-thiol | N1=CC=C(C=C1)C=1N=C(SC1)S | C8H6N2S2
